US08044090B2
N-(2-(5-Propoxy-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropoxy)benzylamine
Combine 2-(5-propoxy-1-triisopropylsilanyltryptamine (138 mg, 0.37 mmol), 3-(2,2,3,3-tetrafluoropropoxy)benzaldehyde (87 mg, 1.8 mmol) and 1 g 3 Å molecular sieves in 25 mL EtOH and reflux overnight. Decant the liquid into a separate flask, cool to 0° C. and treat with 42 mg (1.1 mmol) NaBH4. Stir the reaction at ambient temperature for 1 hour, treat with 0.74 mmol of tetrabutylammonium fluoride and stir for an additional hour. Concentrate under vacuum to give a residue. Chromatograph the residue on silica gel eluting with 10% MeOH in CHCl3 to give the title compound. Treat the title compound with 10 mL EtOH with 0.25 mL 5 N HCl and 40 mL toluene then concentrating gives the hydrochloride of the title compound: ISMS 439 (M+1); 1H NMR (Free base-CDCl3) 7.89 (bs, 1H), 7.23-7.21 (m, 1H), 7.03-7.02 (d, 1H), 6.99-6.98 (d, 1H), 6.94-6.92 (m, 1H), 6.89-6.83 (m, 2H), 6.78-6.75 (m, 1H), 6.18-5.90 (m, 1H), 4.29-4.23 (m, 2H), 3.95-3.91 (m, 2H), 3.78 (s, 2H), 2.95 (s, 4H), 1.85-1.75 (m, 2H), 1.51 (bs, 1H), 1.06-1.03 (t, 3H).

reactant | 5-propoxy-1-triisopropylsilanyltryptamine | 0.37 mmol, 138 mg | C(CC)OC1=CC=C2N(C=C(CCN)C2=C1)[Si](C(C)C)(C(C)C)C(C)C | C22H38N2OSi
reactant | 3-(2,2,3,3-tetrafluoropropoxy)benzaldehyde | 1.8 mmol, 87 mg | FC(COC=1C=C(C=O)C=CC1)(C(F)F)F | C10H8F4O2
reactant | NaBH4 | 1.1 mmol, 42 mg | [BH4-].[Na+]
reactant | tetrabutylammonium fluoride | 0.74 mmol | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EtOH | 25 mL | CCO | C2H6O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | N-(2-(5-Propoxy-1H-indol-3-yl)ethyl)-3-(2,2,3,3-tetrafluoropropoxy)benzylamine | C(CC)OC=1C=C2C(=CNC2=CC1)CCNCC1=CC(=CC=C1)OCC(C(F)F)(F)F | C23H26F4N2O2
